US08633134B2
Step 1: Synthesis of 4-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-N-hydroxy-2-methyl-benzamidine
A solution hydroxylamine hydrochloride (8.70 g) in DMSO was cooled to 15° C., before KOtBu was added in small portions. This mixture was added to a solution of 4-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzonitrile (5.00 g) in DMSO (20 mL) at room temperature and stirred at 80° C. for 5 h. After completion of the reaction, the mixture was poured onto ice-water and the resulting solid was collected by filtration, washed with water and dried. Chromatography on silica gel yielded the title compound (3.3 g, 61%).

reactant | hydroxylamine hydrochloride | 8.70 g | Cl.NO
reactant | KOtBu | CC(C)(C)[O-].[K+]
reactant | 4-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzonitrile | 5.00 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C#N)C=C1)C)C(F)(F)F | C18H11Cl2F3N2O
solvent | DMSO | CS(=O)C | C2H6OS
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | 4-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-N-hydroxy-2-methyl-benzamidine | 3.3 g, 61% | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=N)NO)C=C1)C)C(F)(F)F | C18H14Cl2F3N3O2
